US05153227
(4-Aminophenylsulphonyl)nitromethane (1.62 g, 7.5 mmol) was dissolved in dry tetrahydrofuran (35 ml) under an atmosphere of argon. Triethylamine (1.14 g, 11.25 mmol) was added, followed by butyryl chloride (0.88 g, 8.25 mmol). The mixture was stirred for 2 hours. The precipitated triethylamine hydrochloride was removed by filtration and the filtrate concentrated in vacuo. The brown oil obtained was purified by MPLC, eluting with dichloromethane/methanol (99:1 v/v) to give (4-butyramidophenylsulphonyl)nitromethane (0.16 g, 7.5% yield) as a solid, m.p. 155 156° C.; microanalysis, found: C, 45.8; H, 4.8; N, 9.6%; C11H14N2O5S requires: C, 46.1; H, 4.9; N, 9.8%.

reactant | (4-Aminophenylsulphonyl)nitromethane | 7.5 mmol, 1.62 g | NC1=CC=C(C=C1)S(=O)(=O)C[N+](=O)[O-] | C7H8N2O4S
reactant | Triethylamine | 11.25 mmol, 1.14 g | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 8.25 mmol, 0.88 g | C(CCC)(=O)Cl | C4H7ClO
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | (4-butyramidophenylsulphonyl)nitromethane | 0.16 g, 7.5% yield | C(CCC)(=O)NC1=CC=C(C=C1)S(=O)(=O)C[N+](=O)[O-] | C11H14N2O5S
